** sch_path: /foss/designs/uniccass-icdesign-tools/shared_xserver/frac-n-pll-vco-smacd_2026/schematic/charge-pump/tb_CP.sch
**.subckt tb_CP CTRL UP VDD DN GND
*.opin CTRL
*.ipin UP
*.ipin VDD
*.ipin DN
*.ipin GND
XM2 Vbn Vbn net7 GND sg13_lv_nmos w=W_NB l=2u ng=n_NB
XM8 net2 GND VDD VDD sg13_lv_pmos w=W_PS l=2u ng=n_PS
XM11 Vbp Vbp net2 VDD sg13_lv_pmos w=W_PB l=2u ng=n_PB
XM3 Vbn Vbp net1 VDD sg13_lv_pmos w=W_PB l=2u ng=n_PB
XM4 net1 GND VDD VDD sg13_lv_pmos w=W_PS l=2u ng=n_PS
XM7 net5 UP VDD VDD sg13_lv_pmos w=W_PS l=2u ng=n_PS
XM9 VCP Vbp net5 VDD sg13_lv_pmos w=W_PB l=2u ng=n_PB
XM10 net7 VDD GND GND sg13_lv_nmos w=W_NS l=2u ng=n_NS
XM1 net6 DN GND GND sg13_lv_nmos w=W_NS l=2u ng=n_NS
XM5 VCP Vbn net6 GND sg13_lv_nmos w=W_NB l=2u ng=n_NB
V1 VDD GND 1.2
V2 DN GND PULSE(0 1.2 3.1u 1n 1n 49n 100n 29)
Vloop VCP net3 0
.save i(vloop)
V3 UP GND PULSE(1.2 0 20n 1n 1n 49n 100n 29)
XM6 Vbp net8 GND GND sg13_lv_nmos w=3.9u l=2u ng=1
VBGR net8 GND 0.6
XR2 CTRL net3 sub! rppd w=2e-6 l=407.22e-6 m=1 b=0
XC2 CTRL GND cap_cmim w=18.63e-6 l=18.63e-6 m=4
XR1 net4 net3 sub! rppd w=2e-6 l=407.22e-6 m=1 b=0
XC1 net4 GND cap_cmim w=48.34e-6 l=48.34e-6 m=16
**** begin user architecture code



.include tb_CP.save
.param temp=27
.option method=gear rshunt=1.0e12
.control
save all
op
write tb_CP.raw
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ




.param temp = 27
.options method=gear rshunt=1.0e12

.control

* Save required signals
save v(UP) v(DN) v(VCP) v(CTRL)

* Long transient simulation
tran 1n 6u

* Save raw waveform
write CP_tran.raw

* Plot transient waveform
plot v(UP) v(DN) v(VCP) v(CTRL)
plot v(CTRL)
plot i(Vloop)
plot v(vbp) v(vbn)

.endc




.param W_PB=163.6u n_PB=20 W_PS=29.6u n_PS=5
.param W_NB=40.7u n_NB=5 W_NS=6u n_NS=1


**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
